US04983633
N-[4-[2-(Dimethylamino)ethoxy]benzyl]-2-methoxy-5-sulfamoylbenzamide
To a cooled suspension of 14.3 g of 2-methoxy-5-sulfamoylbenzoic acid in 60 ml of tetrahydrofuran were successively added dropwise 6.25 g of triethylamine and 7.45 g of pivaloyl chloride with stirring. The mixture was stirred at the same temperature for 1 hour and then a solution of 10.0 g of 4-[2-(dimethylamino)ethoxy]-benzylamine in 40 ml of tetrahydrofuran was added dropwise with stirring. The mixture was stirred at room temperature for 14 hours and the solvent was evaporated. Hydrochloric acid (10%) was added to the residue and the aqueous solution was washed with ethyl acetate. The aqueous layer was made alkaline with potassium carbonate to give a precipitate, which was washed with water and ethyl acetate, of 16.6 g of colorless crystals. Recrystallization of the crystals from ethanol gave the title compound as colorless needles, m.p. 154°-155° C.

reactant | 2-methoxy-5-sulfamoylbenzoic acid | 14.3 g | COC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C8H9NO5S
reactant | triethylamine | 6.25 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 7.45 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-[2-(dimethylamino)ethoxy]-benzylamine | 10.0 g | CN(CCOC1=CC=C(CN)C=C1)C | C11H18N2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-[4-[2-(Dimethylamino)ethoxy]benzyl]-2-methoxy-5-sulfamoylbenzamide | CN(CCOC1=CC=C(CNC(C2=C(C=CC(=C2)S(N)(=O)=O)OC)=O)C=C1)C | C19H25N3O5S
